US07148228B2
A fine suspension of 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde (3.0 g, 15 mmol); (Seela, F.; Stecker, H. Helv. Chim. Acta 1986, 69, 1602) in THF was cooled to −78° C. A 3M solution of MeMgBr in THF (25 mL, 75 mmol, 5 equiv.) was added over 3 h, keeping the internal temperature at −78° C. The mixture was stirred for a further 0.5 h, quenched with 100 ml H2O, and neutralized with aw. HCl. Extraction (EtOAc) gave 1-(2-amino-4,6-dichloro-pyrimidin-5-yl)-ethanol as a pale yellow solid (2.5 g, 76%) which was used without further purification.

reactant | 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde | 15 mmol, 3.0 g | NC1=NC(=C(C(=N1)Cl)C=O)Cl | C5H3Cl2N3O
reactant | MeMgBr | C[Mg+].[Br-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 75 mmol, 25 mL, 5 equiv. | C1CCOC1 | C4H8O
product | 1-(2-amino-4,6-dichloro-pyrimidin-5-yl)-ethanol | 2.5 g, 76% | NC1=NC(=C(C(=N1)Cl)C(C)O)Cl | C6H7Cl2N3O
